************************************************************************
* auCdl Netlist:
* 
* Library Name:  AAAFOO_DIFFAMP_PAPER
* Top Cell Name: DIFFAMP_lch_60n
* View Name:     schematic
* Netlisted on:  Jan 16 01:16:46 2020
************************************************************************

.INCLUDE  /nfs/ug/groups/haczgrp/Hubert/BAG2_cds_ff_mpt_N65/cds_ff_mpt/calibre_rcx_setup/source.added
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: AAAFOO_DIFFAMP_PAPER
* Cell Name:    load_pmos
* View Name:    schematic
************************************************************************

.SUBCKT load_pmos VDD bias outn outp
*.PININFO bias:I VDD:B outn:B outp:B
MXLOADN outn bias VDD VDD pch_lvt l=60n w=200n m=84
MXLOADP outp bias VDD VDD pch_lvt l=60n w=200n m=84
.ENDS

************************************************************************
* Library Name: AAAFOO_DIFFAMP_PAPER
* Cell Name:    gm
* View Name:    schematic
************************************************************************

.SUBCKT gm VSS bias_tail inn inp outn outp
*.PININFO bias_tail:I inn:I inp:I VSS:B outn:B outp:B
MXINN outp inn tail VSS nch_lvt l=60n w=200n m=570
MXREF bias_tail bias_tail VSS VSS nch_lvt l=60n w=200n m=2280
MXINP outn inp tail VSS nch_lvt l=60n w=200n m=570
MXTAILN tail bias_tail VSS VSS nch_lvt l=60n w=200n m=1140
MXTAILP tail bias_tail VSS VSS nch_lvt l=60n w=200n m=1140
.ENDS

************************************************************************
* Library Name: AAAFOO_DIFFAMP_PAPER
* Cell Name:    DIFFAMP_lch_60n
* View Name:    schematic
************************************************************************

.SUBCKT DIFFAMP_lch_60n VDD VSS idc inm inp outm outp vbias
*.PININFO idc:I inm:I inp:I vbias:I VDD:B VSS:B outm:B outp:B
XXLOAD VDD vbias outm outp / load_pmos
XXGM VSS idc inm inp outm outp / gm
.ENDS

